US09034866B2
Into a 3000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (150 g, 459.95 mmol, 1.00 equiv) in DMSO (1500 mL), and NIS (206.1 g, 916.08 mmol, 2.00 equiv). The resulting solution was stirred overnight at 80° C., cooled to room temperature, quenched by the addition of 6 L of water, and diluted with 600 mL of saturated aqueous Na2SO3 and 600 mL saturated aqueous Na2CO3. The solids were collected by filtration and washed with 5×300 mL of water. The crude product was purified by Flash-Prep-HPLC to afford 98 g (47%) of 9-Bromo-8-fluoro-3-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide as a light brown solid. LC-MS: 452 [M+H]+: 1H-NMR (DMSO, 300 MHz, ppm): δ 8.80 (d, J=8.1 Hz, 1H), 7.76 (s, 1H), 7.20 (s, 1H), 7.14 (d, J=9.6 Hz, 1H), 4.57-4.54 (m, 2H), 4.39-4.36 (m, 2H).

reactant | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 459.95 mmol, 150 g, 1.00 equiv | BrC=1C(=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)F | C12H9BrFN3O2
reactant | NIS | 916.08 mmol, 206.1 g, 2.00 equiv | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMSO | 1500 mL | CS(=O)C | C2H6OS
product | 9-Bromo-8-fluoro-3-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 98 g, 47% | BrC=1C(=CC2=C(C3=NC(=C(N3CCO2)I)C(=O)N)C1)F | C12H8BrFIN3O2
